US06620817B1
Preparation of 2-[5-chloro-6-phenyl-2-(4-trifluoromethylphenyl)-4-pyrimidinylamino]-N,N-dimethylacetamide:
A mixture of N,N-dimethyl-2-[6-phenyl-2-(4-trifluoromethyl-phenyl)-4-pyrimidinylamino]acetamide (15.9 g), N-chlorosuccinimide (6.4 g) and acetic acid (80 ml) is stirred at 90° C. for 1.5 hour. The reaction mixture is concentrated under reduced pressure, and water and chloroform are added to the residue. The mixture is neutralized with an aqueous sodium hydroxide solution (1 mol/L), and the chloroform layer is separated. The chloroform layer is dried over anhydrous sodium sulfate, concentrated under reduced pressure, and the residue is purified by silica gel column chromatography (eluent: chloroform), and recrystallized from ethanol to give the desired compound (16 g).

reactant | N,N-dimethyl-2-[6-phenyl-2-(4-trifluoromethyl-phenyl)-4-pyrimidinylamino]acetamide | 15.9 g | CN(C(CNC1=NC(=NC(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O)C | C21H19F3N4O
reactant | N-chlorosuccinimide | 6.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 2-[5-chloro-6-phenyl-2-(4-trifluoromethylphenyl)-4-pyrimidinylamino]-N,N-dimethylacetamide | 16 g | ClC=1C(=NC(=NC1C1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F)NCC(=O)N(C)C | C21H18ClF3N4O
